US08258129B2
a) 2-chloro-4-(3,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-5-dimethylamino-pyrimidine
5 g of 2,4-dichloro-5-dimethylamino-pyrimidine are dissolved in 30 mL isopropanol and combined with 5.82 g 4,5,6,7-tetrahydroimidazopyridine dihydrochloride and 6.06 g potassium carbonate. After 6 and 8 days in each case 1 g of 4,5,6,7-tetrahydroimidazopyridine dihydrochloride and 1 g potassium carbonate are added. In all, the mixture is stirred for 10 days at 25° C. The reaction mixture is diluted with 400 mL water and stirred for 1 h. The precipitate formed is suction filtered, washed and dried.

reactant | 2,4-dichloro-5-dimethylamino-pyrimidine | 5 g | ClC1=NC=C(C(=N1)Cl)N(C)C | C6H7Cl2N3
reactant | 4,5,6,7-tetrahydroimidazopyridine dihydrochloride | 5.82 g | Cl.Cl.N1C=NC2=C1CCCN2
reactant | potassium carbonate | 6.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5,6,7-tetrahydroimidazopyridine dihydrochloride | 1 g | Cl.Cl.N1C=NC2=C1CCCN2
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
solvent | water | 400 mL | O | H2O
product | 2-chloro-4-(3,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-5-dimethylamino-pyrimidine | ClC1=NC=C(C(=N1)N1CC2=C(CC1)N=CN2)N(C)C | C12H15ClN6
